* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.11787598519956444
Fd1_1 0 s1 V1 -5.8937992599782225
Gr1_1_1 0 s1 x1_a1 0 19381258929505.832
Gr2_re_1_1 0 s1 x2_re_a1 0 -13426990135.59673
Gr2_im_1_1 0 s1 x2_im_a1 0 -2077237786.051328
Gr3_re_1_1 0 s1 x3_re_a1 0 -548404698.6127722
Gr3_im_1_1 0 s1 x3_im_a1 0 -1064190032.0252113
Gr4_re_1_1 0 s1 x4_re_a1 0 -1824841701.4913669
Gr4_im_1_1 0 s1 x4_im_a1 0 830198447.759158
Gr5_re_1_1 0 s1 x5_re_a1 0 -282404049.5551716
Gr5_im_1_1 0 s1 x5_im_a1 0 83618662.12113361
Gr6_re_1_1 0 s1 x6_re_a1 0 -1313644596.962927
Gr6_im_1_1 0 s1 x6_im_a1 0 2233867206.9648204
Gr7_re_1_1 0 s1 x7_re_a1 0 -2762773548.3061147
Gr7_im_1_1 0 s1 x7_im_a1 0 -1224994146.4512606
Gr8_re_1_1 0 s1 x8_re_a1 0 -404119305.66643506
Gr8_im_1_1 0 s1 x8_im_a1 0 -126429482.58215272
Gd1_2 0 s1 p2 0 0.0006087854433701257
Fd1_2 0 s1 V2 0.030439272168506285
Gr1_1_2 0 s1 x1_a2 0 -100083911189.3054
Gr2_re_1_2 0 s1 x2_re_a2 0 65100182.53603143
Gr2_im_1_2 0 s1 x2_im_a2 0 9857741.788027441
Gr3_re_1_2 0 s1 x3_re_a2 0 1346639.12821094
Gr3_im_1_2 0 s1 x3_im_a2 0 5083933.782182041
Gr4_re_1_2 0 s1 x4_re_a2 0 10047401.690473968
Gr4_im_1_2 0 s1 x4_im_a2 0 -4008290.519303783
Gr5_re_1_2 0 s1 x5_re_a2 0 868283.9831172966
Gr5_im_1_2 0 s1 x5_im_a2 0 -355532.9305617179
Gr6_re_1_2 0 s1 x6_re_a2 0 4912092.658276366
Gr6_im_1_2 0 s1 x6_im_a2 0 -10923872.31770685
Gr7_re_1_2 0 s1 x7_re_a2 0 15982080.858218748
Gr7_im_1_2 0 s1 x7_im_a2 0 5951427.32886935
Gr8_re_1_2 0 s1 x8_re_a2 0 1417176.2174803694
Gr8_im_1_2 0 s1 x8_im_a2 0 703252.7575745557
Gd1_3 0 s1 p3 0 -4.93777221444527e-07
Fd1_3 0 s1 V3 -2.468886107222635e-05
Gr1_1_3 0 s1 x1_a3 0 81153190.19581188
Gr2_re_1_3 0 s1 x2_re_a3 0 -46861.95922471463
Gr2_im_1_3 0 s1 x2_im_a3 0 -6331.1333479418245
Gr3_re_1_3 0 s1 x3_re_a3 0 -44.86727735523882
Gr3_im_1_3 0 s1 x3_im_a3 0 -3017.5546712193936
Gr4_re_1_3 0 s1 x4_re_a3 0 -6935.935331418663
Gr4_im_1_3 0 s1 x4_im_a3 0 2527.462518248145
Gr5_re_1_3 0 s1 x5_re_a3 0 -77.21051674296167
Gr5_im_1_3 0 s1 x5_im_a3 0 191.77767842583094
Gr6_re_1_3 0 s1 x6_re_a3 0 -5431.632816285198
Gr6_im_1_3 0 s1 x6_im_a3 0 8095.276350793345
Gr7_re_1_3 0 s1 x7_re_a3 0 -9329.085441865014
Gr7_im_1_3 0 s1 x7_im_a3 0 -4804.504155280217
Gr8_re_1_3 0 s1 x8_re_a3 0 -343.11846643794286
Gr8_im_1_3 0 s1 x8_im_a3 0 -477.3519422882194
Gd1_4 0 s1 p4 0 7.454167806436425e-07
Fd1_4 0 s1 V4 3.7270839032182125e-05
Gr1_1_4 0 s1 x1_a4 0 -122595880.71385026
Gr2_re_1_4 0 s1 x2_re_a4 0 94354.63522809239
Gr2_im_1_4 0 s1 x2_im_a4 0 15478.35530062925
Gr3_re_1_4 0 s1 x3_re_a4 0 5797.827348249528
Gr3_im_1_4 0 s1 x3_im_a4 0 8126.969470699848
Gr4_re_1_4 0 s1 x4_re_a4 0 12100.033894118502
Gr4_im_1_4 0 s1 x4_im_a4 0 -6176.364438271298
Gr5_re_1_4 0 s1 x5_re_a4 0 2923.515419971672
Gr5_im_1_4 0 s1 x5_im_a4 0 -693.2077118488547
Gr6_re_1_4 0 s1 x6_re_a4 0 8455.770251857459
Gr6_im_1_4 0 s1 x6_im_a4 0 -15310.768002038667
Gr7_re_1_4 0 s1 x7_re_a4 0 19462.22410654353
Gr7_im_1_4 0 s1 x7_im_a4 0 8017.637094626896
Gr8_re_1_4 0 s1 x8_re_a4 0 3940.156084357306
Gr8_im_1_4 0 s1 x8_im_a4 0 827.5129409693161
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 8.653799487524982e-14
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 6.205446249325254e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 252519078009.6637
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -252519078009.6637
Rp2_im_im_a1 0 x2_im_a1 6.205446249325254e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.479918050223584e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143478488916.6575
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143478488916.6575
Rp3_im_im_a1 0 x3_im_a1 7.479918050223584e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.287818709502014e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 140409070401.6438
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -140409070401.6438
Rp4_im_im_a1 0 x4_im_a1 8.287818709502014e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.5992415616597713e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 127929169416.74579
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -127929169416.74579
Rp5_im_im_a1 0 x5_im_a1 1.5992415616597713e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 7.475998243442586e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 94736036431.59537
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -94736036431.59537
Rp6_im_im_a1 0 x6_im_a1 7.475998243442586e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 6.375019818156871e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 97895047997.59785
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -97895047997.59785
Rp7_im_im_a1 0 x7_im_a1 6.375019818156871e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.2232069711197235e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 111350905587.0981
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -111350905587.0981
Rp8_im_im_a1 0 x8_im_a1 1.2232069711197235e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0006037635950298047
Fd2_1 0 s2 V1 0.030188179751490237
Gr1_2_1 0 s2 x1_a1 0 -99258216761.75131
Gr2_re_2_1 0 s2 x2_re_a1 0 64528703.84873068
Gr2_im_2_1 0 s2 x2_im_a1 0 9769358.112987956
Gr3_re_2_1 0 s2 x3_re_a1 0 1323467.5866346878
Gr3_im_2_1 0 s2 x3_im_a1 0 5038649.60565679
Gr4_re_2_1 0 s2 x4_re_a1 0 9969577.882159337
Gr4_im_2_1 0 s2 x4_im_a1 0 -3972957.8785859104
Gr5_re_2_1 0 s2 x5_re_a1 0 856329.0780763564
Gr5_im_2_1 0 s2 x5_im_a1 0 -351980.4142726605
Gr6_re_2_1 0 s2 x6_re_a1 0 4856367.523263322
Gr6_im_2_1 0 s2 x6_im_a1 0 -10828781.951613009
Gr7_re_2_1 0 s2 x7_re_a1 0 15864159.279544855
Gr7_im_2_1 0 s2 x7_im_a1 0 5899287.017101575
Gr8_re_2_1 0 s2 x8_re_a1 0 1400046.238614459
Gr8_im_2_1 0 s2 x8_im_a1 0 697860.006279139
Gd2_2 0 s2 p2 0 -0.12161186633808965
Fd2_2 0 s2 V2 -6.080593316904483
Gr1_2_2 0 s2 x1_a2 0 19995434904856.707
Gr2_re_2_2 0 s2 x2_re_a2 0 -13826378609.381922
Gr2_im_2_2 0 s2 x2_im_a2 0 -2137708927.0890033
Gr3_re_2_2 0 s2 x3_re_a2 0 -556631373.9291966
Gr3_im_2_2 0 s2 x3_im_a2 0 -1095377822.9141054
Gr4_re_2_2 0 s2 x4_re_a2 0 -1886514259.2248905
Gr4_im_2_2 0 s2 x4_im_a2 0 854788860.6302881
Gr5_re_2_2 0 s2 x5_re_a2 0 -287717597.1940061
Gr5_im_2_2 0 s2 x5_im_a2 0 85798538.95376994
Gr6_re_2_2 0 s2 x6_re_a2 0 -1343742176.6946864
Gr6_im_2_2 0 s2 x6_im_a2 0 2300884787.9497285
Gr7_re_2_2 0 s2 x7_re_a2 0 -2860891468.478695
Gr7_im_2_2 0 s2 x7_im_a2 0 -1261504199.4754896
Gr8_re_2_2 0 s2 x8_re_a2 0 -412799208.2040484
Gr8_im_2_2 0 s2 x8_im_a2 0 -130746272.15847826
Gd2_3 0 s2 p3 0 -7.635657959521288e-07
Fd2_3 0 s2 V3 -3.817828979760644e-05
Gr1_2_3 0 s2 x1_a3 0 125521547.95939352
Gr2_re_2_3 0 s2 x2_re_a3 0 -80179.90445113755
Gr2_im_2_3 0 s2 x2_im_a3 0 -11750.250194241642
Gr3_re_2_3 0 s2 x3_re_a3 0 -1894.7071428517368
Gr3_im_2_3 0 s2 x3_im_a3 0 -5863.766791672893
Gr4_re_2_3 0 s2 x4_re_a3 0 -11360.898361316444
Gr4_im_2_3 0 s2 x4_im_a3 0 4697.999983545095
Gr5_re_2_3 0 s2 x5_re_a3 0 -1023.3863734871103
Gr5_im_2_3 0 s2 x5_im_a3 0 426.56938517233056
Gr6_re_2_3 0 s2 x6_re_a3 0 -8353.89350551977
Gr6_im_2_3 0 s2 x6_im_a3 0 13553.552419399326
Gr7_re_2_3 0 s2 x7_re_a3 0 -16424.9735313183
Gr7_im_2_3 0 s2 x7_im_a3 0 -7685.42586521201
Gr8_re_2_3 0 s2 x8_re_a3 0 -1636.8619167231675
Gr8_im_2_3 0 s2 x8_im_a3 0 -785.2797737188454
Gd2_4 0 s2 p4 0 -2.347019646498098e-06
Fd2_4 0 s2 V4 -0.00011735098232490491
Gr1_2_4 0 s2 x1_a4 0 385867622.3271239
Gr2_re_2_4 0 s2 x2_re_a4 0 -258565.21528373752
Gr2_im_2_4 0 s2 x2_im_a4 0 -39213.42932406171
Gr3_re_2_4 0 s2 x3_re_a4 0 -8680.259585408985
Gr3_im_2_4 0 s2 x3_im_a4 0 -19926.715813697014
Gr4_re_2_4 0 s2 x4_re_a4 0 -35960.7259442217
Gr4_im_2_4 0 s2 x4_im_a4 0 15692.128333960902
Gr5_re_2_4 0 s2 x5_re_a4 0 -4552.325782668694
Gr5_im_2_4 0 s2 x5_im_a4 0 1511.7344198889705
Gr6_re_2_4 0 s2 x6_re_a4 0 -25715.322283571502
Gr6_im_2_4 0 s2 x6_im_a4 0 43363.87090909522
Gr7_re_2_4 0 s2 x7_re_a4 0 -53596.537264888146
Gr7_im_2_4 0 s2 x7_im_a4 0 -24096.123166505244
Gr8_re_2_4 0 s2 x8_re_a4 0 -6751.528688305043
Gr8_im_2_4 0 s2 x8_im_a4 0 -2501.873223168461
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 8.653799487524982e-14
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 6.205446249325254e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 252519078009.6637
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -252519078009.6637
Rp2_im_im_a2 0 x2_im_a2 6.205446249325254e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.479918050223584e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143478488916.6575
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143478488916.6575
Rp3_im_im_a2 0 x3_im_a2 7.479918050223584e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.287818709502014e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 140409070401.6438
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -140409070401.6438
Rp4_im_im_a2 0 x4_im_a2 8.287818709502014e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.5992415616597713e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 127929169416.74579
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -127929169416.74579
Rp5_im_im_a2 0 x5_im_a2 1.5992415616597713e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 7.475998243442586e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 94736036431.59537
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -94736036431.59537
Rp6_im_im_a2 0 x6_im_a2 7.475998243442586e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 6.375019818156871e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 97895047997.59785
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -97895047997.59785
Rp7_im_im_a2 0 x7_im_a2 6.375019818156871e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.2232069711197235e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 111350905587.0981
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -111350905587.0981
Rp8_im_im_a2 0 x8_im_a2 1.2232069711197235e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 1.1176890627900505e-06
Fd3_1 0 s3 V1 5.588445313950253e-05
Gr1_3_1 0 s3 x1_a1 0 -183747480.1856054
Gr2_re_3_1 0 s3 x2_re_a1 0 120751.81827266447
Gr2_im_3_1 0 s3 x2_im_a1 0 18038.595644746667
Gr3_re_3_1 0 s3 x3_re_a1 0 3625.274117377337
Gr3_im_3_1 0 s3 x3_im_a1 0 9083.296750976067
Gr4_re_3_1 0 s3 x4_re_a1 0 16807.15425025872
Gr4_im_3_1 0 s3 x4_im_a1 0 -7207.422360937037
Gr5_re_3_1 0 s3 x5_re_a1 0 1904.3850650124823
Gr5_im_3_1 0 s3 x5_im_a1 0 -682.1698219898273
Gr6_re_3_1 0 s3 x6_re_a1 0 12409.438118014396
Gr6_im_3_1 0 s3 x6_im_a1 0 -20298.872966987285
Gr7_re_3_1 0 s3 x7_re_a1 0 24623.65030749887
Gr7_im_3_1 0 s3 x7_im_a1 0 11387.098301719663
Gr8_re_3_1 0 s3 x8_re_a1 0 2887.8176071788976
Gr8_im_3_1 0 s3 x8_im_a1 0 1162.2267996356418
Gd3_2 0 s3 p2 0 6.678338704231365e-07
Fd3_2 0 s3 V2 3.339169352115683e-05
Gr1_3_2 0 s3 x1_a2 0 -109779799.54260136
Gr2_re_3_2 0 s3 x2_re_a2 0 68885.6118242272
Gr2_im_3_2 0 s3 x2_im_a2 0 9962.9101285481
Gr3_re_3_2 0 s3 x3_re_a2 0 1359.6770875292993
Gr3_im_3_2 0 s3 x3_im_a2 0 4937.491897494981
Gr4_re_3_2 0 s3 x4_re_a2 0 9841.20010913096
Gr4_im_3_2 0 s3 x4_im_a2 0 -3982.846751193883
Gr5_re_3_2 0 s3 x5_re_a2 0 749.0351119579373
Gr5_im_3_2 0 s3 x5_im_a2 0 -351.9662669965124
Gr6_re_3_2 0 s3 x6_re_a2 0 7297.576799831027
Gr6_im_3_2 0 s3 x6_im_a2 0 -11687.02986538075
Gr7_re_3_2 0 s3 x7_re_a2 0 14066.245769122886
Gr7_im_3_2 0 s3 x7_im_a2 0 6678.639578415588
Gr8_re_3_2 0 s3 x8_re_a2 0 1253.3135189050026
Gr8_im_3_2 0 s3 x8_im_a2 0 679.764773329079
Gd3_3 0 s3 p3 0 0.043931591332400675
Fd3_3 0 s3 V3 2.196579566620034
Gr1_3_3 0 s3 x1_a3 0 -7225911436654.85
Gr2_re_3_3 0 s3 x2_re_a3 0 5734122266.586392
Gr2_im_3_3 0 s3 x2_im_a3 0 958380326.838802
Gr3_re_3_3 0 s3 x3_re_a3 0 380023825.99374723
Gr3_im_3_3 0 s3 x3_im_a3 0 508437611.52412844
Gr4_re_3_3 0 s3 x4_re_a3 0 734338931.6885871
Gr4_im_3_3 0 s3 x4_im_a3 0 -383179873.9547264
Gr5_re_3_3 0 s3 x5_re_a3 0 191370852.4751734
Gr5_im_3_3 0 s3 x5_im_a3 0 -43484204.09419526
Gr6_re_3_3 0 s3 x6_re_a3 0 496571881.0934988
Gr6_im_3_3 0 s3 x6_im_a3 0 -930787338.6270262
Gr7_re_3_3 0 s3 x7_re_a3 0 1201937293.6836927
Gr7_im_3_3 0 s3 x7_im_a3 0 482179079.6749275
Gr8_re_3_3 0 s3 x8_re_a3 0 255688353.42346206
Gr8_im_3_3 0 s3 x8_im_a3 0 51115440.843301274
Gd3_4 0 s3 p4 0 -2.784603578068906e-05
Fd3_4 0 s3 V4 -0.001392301789034453
Gr1_3_4 0 s3 x1_a4 0 4575909363.004371
Gr2_re_3_4 0 s3 x2_re_a4 0 -2535084.05000226
Gr2_im_3_4 0 s3 x2_im_a4 0 -286578.9730192727
Gr3_re_3_4 0 s3 x3_re_a4 0 -35594.599720931845
Gr3_im_3_4 0 s3 x3_im_a4 0 -106609.4804818639
Gr4_re_3_4 0 s3 x4_re_a4 0 -229534.32535645092
Gr4_im_3_4 0 s3 x4_im_a4 0 95010.06132825551
Gr5_re_3_4 0 s3 x5_re_a4 0 -18403.274461176905
Gr5_im_3_4 0 s3 x5_im_a4 0 -3674.5184597458315
Gr6_re_3_4 0 s3 x6_re_a4 0 -386116.11623881425
Gr6_im_3_4 0 s3 x6_im_a4 0 431285.7272769019
Gr7_re_3_4 0 s3 x7_re_a4 0 -234544.89388375226
Gr7_im_3_4 0 s3 x7_im_a4 0 -279447.59934183
Gr8_re_3_4 0 s3 x8_re_a4 0 -29994.580212006374
Gr8_im_3_4 0 s3 x8_im_a4 0 -12624.936804022671
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 8.653799487524982e-14
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 6.205446249325254e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 252519078009.6637
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -252519078009.6637
Rp2_im_im_a3 0 x2_im_a3 6.205446249325254e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 7.479918050223584e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 143478488916.6575
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -143478488916.6575
Rp3_im_im_a3 0 x3_im_a3 7.479918050223584e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 8.287818709502014e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 140409070401.6438
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -140409070401.6438
Rp4_im_im_a3 0 x4_im_a3 8.287818709502014e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.5992415616597713e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 127929169416.74579
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -127929169416.74579
Rp5_im_im_a3 0 x5_im_a3 1.5992415616597713e-09
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 7.475998243442586e-10
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 94736036431.59537
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -94736036431.59537
Rp6_im_im_a3 0 x6_im_a3 7.475998243442586e-10
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 6.375019818156871e-10
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 97895047997.59785
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -97895047997.59785
Rp7_im_im_a3 0 x7_im_a3 6.375019818156871e-10
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.2232069711197235e-09
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 111350905587.0981
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -111350905587.0981
Rp8_im_im_a3 0 x8_im_a3 1.2232069711197235e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 1.6732063413998298e-06
Fd4_1 0 s4 V1 8.36603170699915e-05
Gr1_4_1 0 s4 x1_a1 0 -275111806.8187181
Gr2_re_4_1 0 s4 x2_re_a1 0 191143.31014570937
Gr2_im_4_1 0 s4 x2_im_a1 0 29619.74205488411
Gr3_re_4_1 0 s4 x3_re_a1 0 7926.974071349292
Gr3_im_4_1 0 s4 x3_im_a1 0 15184.12874381813
Gr4_re_4_1 0 s4 x4_re_a1 0 25922.577753806418
Gr4_im_4_1 0 s4 x4_im_a1 0 -11836.31253928414
Gr5_re_4_1 0 s4 x5_re_a1 0 4076.4366718736537
Gr5_im_4_1 0 s4 x5_im_a1 0 -1196.4534019146724
Gr6_re_4_1 0 s4 x6_re_a1 0 18680.452012379974
Gr6_im_4_1 0 s4 x6_im_a1 0 -31779.649720450343
Gr7_re_4_1 0 s4 x7_re_a1 0 39295.48421322148
Gr7_im_4_1 0 s4 x7_im_a1 0 17408.12160244975
Gr8_re_4_1 0 s4 x8_re_a1 0 5818.146004242855
Gr8_im_4_1 0 s4 x8_im_a1 0 1795.2906625654177
Gd4_2 0 s4 p2 0 3.4403620030066343e-07
Fd4_2 0 s4 V2 1.720181001503317e-05
Gr1_4_2 0 s4 x1_a2 0 -56507619.66145728
Gr2_re_4_2 0 s4 x2_re_a2 0 22661.082330570316
Gr2_im_4_2 0 s4 x2_im_a2 0 1982.921606675636
Gr3_re_4_2 0 s4 x3_re_a2 0 -2520.62455005311
Gr3_im_4_2 0 s4 x3_im_a2 0 683.3423725076393
Gr4_re_4_2 0 s4 x4_re_a2 0 4435.422447694449
Gr4_im_4_2 0 s4 x4_im_a2 0 -816.3276337741472
Gr5_re_4_2 0 s4 x5_re_a2 0 -1174.5870483885578
Gr5_im_4_2 0 s4 x5_im_a2 0 43.726702981540775
Gr6_re_4_2 0 s4 x6_re_a2 0 3393.152782443709
Gr6_im_4_2 0 s4 x6_im_a2 0 -4439.154994495035
Gr7_re_4_2 0 s4 x7_re_a2 0 4843.438291307325
Gr7_im_4_2 0 s4 x7_im_a2 0 3075.138094366564
Gr8_re_4_2 0 s4 x8_re_a2 0 -1248.2960236382805
Gr8_im_4_2 0 s4 x8_im_a2 0 326.46823168899084
Gd4_3 0 s4 p3 0 -2.9674273157618697e-05
Fd4_3 0 s4 V3 -0.0014837136578809348
Gr1_4_3 0 s4 x1_a3 0 4876613040.007317
Gr2_re_4_3 0 s4 x2_re_a3 0 -2772030.8788149464
Gr2_im_4_3 0 s4 x2_im_a3 0 -325978.544180858
Gr3_re_4_3 0 s4 x3_re_a3 0 -51116.85856733773
Gr3_im_4_3 0 s4 x3_im_a3 0 -127431.60189137254
Gr4_re_4_3 0 s4 x4_re_a3 0 -259716.25755985815
Gr4_im_4_3 0 s4 x4_im_a3 0 110737.43920128763
Gr5_re_4_3 0 s4 x5_re_a3 0 -26236.866313565344
Gr5_im_4_3 0 s4 x5_im_a3 0 -1881.6699816572943
Gr6_re_4_3 0 s4 x6_re_a3 0 -407557.9083608048
Gr6_im_4_3 0 s4 x6_im_a3 0 469836.1332263067
Gr7_re_4_3 0 s4 x7_re_a3 0 -283172.1813043248
Gr7_im_4_3 0 s4 x7_im_a3 0 -299550.9474614137
Gr8_re_4_3 0 s4 x8_re_a3 0 -40380.011699386785
Gr8_im_4_3 0 s4 x8_im_a3 0 -14700.711785704705
Gd4_4 0 s4 p4 0 0.04610658472513868
Fd4_4 0 s4 V4 2.305329236256934
Gr1_4_4 0 s4 x1_a4 0 -7583326566438.655
Gr2_re_4_4 0 s4 x2_re_a4 0 5935038134.626112
Gr2_im_4_4 0 s4 x2_im_a4 0 981558278.8751826
Gr3_re_4_4 0 s4 x3_re_a4 0 383810669.77539665
Gr3_im_4_4 0 s4 x3_im_a4 0 516893906.8555611
Gr4_re_4_4 0 s4 x4_re_a4 0 752651066.317848
Gr4_im_4_4 0 s4 x4_im_a4 0 -391457328.9898292
Gr5_re_4_4 0 s4 x5_re_a4 0 192899687.4842862
Gr5_im_4_4 0 s4 x5_im_a4 0 -44591106.617281795
Gr6_re_4_4 0 s4 x6_re_a4 0 527684379.49327886
Gr6_im_4_4 0 s4 x6_im_a4 0 -959560596.7327436
Gr7_re_4_4 0 s4 x7_re_a4 0 1219978301.0820265
Gr7_im_4_4 0 s4 x7_im_a4 0 499207317.0426127
Gr8_re_4_4 0 s4 x8_re_a4 0 258314170.70482647
Gr8_im_4_4 0 s4 x8_im_a4 0 51356943.58163314
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 8.653799487524982e-14
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 6.205446249325254e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 252519078009.6637
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -252519078009.6637
Rp2_im_im_a4 0 x2_im_a4 6.205446249325254e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 7.479918050223584e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 143478488916.6575
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -143478488916.6575
Rp3_im_im_a4 0 x3_im_a4 7.479918050223584e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 8.287818709502014e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 140409070401.6438
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -140409070401.6438
Rp4_im_im_a4 0 x4_im_a4 8.287818709502014e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.5992415616597713e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 127929169416.74579
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -127929169416.74579
Rp5_im_im_a4 0 x5_im_a4 1.5992415616597713e-09
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 7.475998243442586e-10
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 94736036431.59537
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -94736036431.59537
Rp6_im_im_a4 0 x6_im_a4 7.475998243442586e-10
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 6.375019818156871e-10
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 97895047997.59785
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -97895047997.59785
Rp7_im_im_a4 0 x7_im_a4 6.375019818156871e-10
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.2232069711197235e-09
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 111350905587.0981
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -111350905587.0981
Rp8_im_im_a4 0 x8_im_a4 1.2232069711197235e-09
.ENDS s_equivalent
